* D:\jupyter\Practice\VLSI_final\final_ops_schema.asc
* Generated by LTspice 24.1.4 for Windows.
M1 N002 Vin1 N004 N004 NMOS l={L1} w={W1}
M5 N004 N005 0 0 NMOS l={L5} w={W5}
M8 N005 N005 0 0 NMOS l={L5} w={W5}
I1 N001 N005 {IB}
M3 N002 N002 N001 N001 PMOS l={L3} w={W3}
M4 N003 N002 N001 N001 PMOS l={L3} w={W3}
V1 N001 0 3.3
V2 Vin1 0 SINE(2.845 0.01 50) AC 0.01
M2 N003 Vin2 N004 N004 NMOS l={L1} w={W1}
V3 Vin2 0 SINE(2.845 -0.01 50) AC -0.01
M6 Vout N003 N001 N001 PMOS l={L6} w={W6}
M7 Vout N005 0 0 NMOS l={L7} w={W7}
CL Vout 0 100p
CC Vout N003 {CC}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\DELL\AppData\Local\LTspice\lib\cmp\standard.mos
.ac dec 100 10 1G
.model NMOS NMOS ( kp = 100u vt0 = 0.4 lambda = 0.011 )
.model PMOS PMOS ( kp = 50u vt0 = -0.4 lambda = 0.052 )
.MEAS AC Gain FIND V(vout) AT 10Hz
.meas AC UGBW WHEN mag(V(vout))=1
.meas AC PM FIND ph(V(vout)) WHEN mag(V(vout))=1
.OPTIONS ALLOW_AMBIGUOUS_MODELS
* .op
.backanno
.end
